US07262206B2
(8) 1,5-diacetyl-3-[(4-trifluoromethyl-phenyl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 4-trifluoromethyl-benzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 4-trifluoromethyl-benzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
product | 1,5-diacetyl-3-[(4-trifluoromethyl-phenyl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC=C(C=C1)C(F)(F)F)=O | C20H14F3NO4
